US07439368B2
4-(2-Pyrrolidon-1-yl)benzoic acid (20 g, 0.097 mol), 5% rhodium-carbon catalyst (6.89 g, 1.5% mol) and methanol (200 mL) are charged in an autoclave (300 mL) and stirred at room temperature for 24 hours under hydrogen pressure (9 atm, conversion rate >99%, cis:trans=75:25). The reaction solution is concentrated to 100 ml, and adjusted to pH 2 with conc. hydrochloric acid (11 g), followed by extraction with chloroform (100 mL) (×3). The organic layers are combined, washed with saturated brine (100 mL), dried over anhydrous magnesium sulfate, and the insoluble materials are removed by filtration. The resultant solution is evaporated to remove the solvent under reduced pressure. To the residue is added toluene and the precipitated crystals are collected by filtration, air-dried at 50° C. overnight to give 4-(2-pyrrolidon-1-yl)cyclohexylcarboxylic acid (19.3 g, 93.7%, cis:trans=65:35).

reactant | 4-(2-Pyrrolidon-1-yl)benzoic acid | 0.097 mol, 20 g | N1(C(CCC1)=O)C1=CC=C(C(=O)O)C=C1 | C11H11NO3
catalyst | rhodium-carbon | 6.89 g | [C].[Rh]
solvent | methanol | 200 mL | CO | CH4O
product | 4-(2-pyrrolidon-1-yl)cyclohexylcarboxylic acid | 19.3 g, 93.7% | N1(C(CCC1)=O)C1CCC(CC1)C(=O)O | C11H17NO3
